US09120749B2
{6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[4-(diethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure F, {6-bromo-4-[4-(diethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone (45 mg, 0.101 mmol) was reacted with 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (34 mg, 0.121 mmol) to afford the desired product (28 mg, 53%) as a yellow glass: 1H NMR (300 MHz, CD3OD) δ 9.39 (s, 0.5H), 9.28 (s, 0.5H), 8.44 (d, J=2.2 Hz, 1H), 8.30-8.21 (m, 1H), 7.98 (d, J=8.8 Hz, 1H), 7.40-7.17 (m, 2H), 4.96 (s, 1H), 3.99 (d, J=2.5 Hz, 3H), 3.72-3.52 (m, 1H), 3.43-3.18 (m, 3H), 2.98-2.81 (m, 1H), 2.59-1.75 (m, 9H), 1.48-1.34 (m, 6H), 1.31-1.13 (m, 4H); ESI MS m/z 522 [C30H36ClN3O3+H]+; HPLC>99% (AUC), tR=7.67 min.

reactant | {6-bromo-4-[4-(diethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.101 mmol, 45 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1CCC(CC1)N(CC)CC | C23H30BrN3O
reactant | 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.121 mmol, 34 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)O | C13H18BClO4
product | {6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[4-(diethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone | 28 mg, 53% | ClC=1C=C(C=C(C1O)OC)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1CCC(CC1)N(CC)CC | C30H36ClN3O3
